US04175087
3-(α,α,α-Trifluoro-m-tolyl)-3-octen-2-one
A mixture was prepared of 5.14 g. (0.02 mole) of 4-(dimethylamino)-3-(α,α,α-trifluoro-m-tolyl)-3-buten-2-one and 75 ml. of dry tetrahydrofuran and there was added dropwise thereto an equivalent amount of n-butyllithium in hexane while maintaining the temperature of the reaction mixture at about -20° C. After the addition was complete the mixture was stirred for about 1 hour at a temperature of about -20° to -30° C. The reaction mixture was then allowed to warm to room temperature and 25 ml. of 1 N HCl was added and the mixture was concentrated in vacuo. The residual dark oil was taken up in 100 ml. of ether and washed with 2×50 ml. of water and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated in vacuo to give a dark oil. This oil was chromatographed over silica gel using ether as a solvent and eluent and the product was finally purified by molecular distillation. The product was identified by elemental analyses as 3-(α,α,α-trifluoro-m-tolyl)-3-octen-2-one. It weighed 4.5 g. (83% yield).

reactant | 4-(dimethylamino)-3-(α,α,α-trifluoro-m-tolyl)-3-buten-2-one | 0.02 mole | CN(C=C(C(C)=O)C=1C=C(C=CC1)C(F)(F)F)C | C13H14F3NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | HCl | 1 N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
product | 3-(α,α,α-Trifluoro-m-tolyl)-3-octen-2-one | FC(C1=CC(=CC=C1)C(C(C)=O)=CCCCC)(F)F | C15H17F3O
